US07091214B2
tert-Butyl[2-(4-amino-7-bromo-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate (14.09 g, 30.5 mmol) and 3-pyridylboronic acid (4.31 g, 35.0 mmol) were coupled according to the method described in Part G of Example 386. The reaction was heated for 2.5 hours. The crude product was triturated with toluene (15 mL/g) at 123° C. and isolated by filtration to provide 11.31 g of tert-butyl{2-[2-butyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}carbamate as a white solid.

reactant | tert-Butyl[2-(4-amino-7-bromo-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate | 30.5 mmol, 14.09 g | C(C)(C)(C)OC(NCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)CCCC)=O | C21H28BrN5O2
reactant | 3-pyridylboronic acid | 35.0 mmol, 4.31 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | tert-butyl{2-[2-butyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}carbamate | 11.31 g | C(C)(C)(C)OC(NCCN1C(=NC=2C=NC=3C=C(C=CC3C21)C=2C=NC=CC2)CCCC)=O | C26H31N5O2
